US06951879B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and 1-Acetylpiperazine were converted to yield 1-(4-(4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl)-piperazin-1-yl)-ethanone as white solid, MS: 488(MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C17H15Br2NOS
reactant | 1-Acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 1-(4-(4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl)-piperazin-1-yl)-ethanone | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN2CCN(CC2)C(C)=O | C23H26BrN3O2S
